5
L0100 1 0 1E-3 IC=0
L0200 2 0 0.25E-3
L0300 3 0 0.1111111111E-3
C0100 1 0 1E-6 IC=1
C0200 2 0 1E-6 IC=1
C0300 3 0 1E-6 IC=1
C0400 4 0 1E-6 IC=1
C0500 5 0 0.1111111111E-3
G0400 4 0 5 0 1
G0500 5 0 4 0 -1
.TRAN 0.0003E-3 0.003 GEAR3 1 UIC
